US05455260
N-trityl-1,3-dihydroxy-2-propanamine
To dry ethyl ether (300 ml) is added with stirring lithium aluminum hydride (4.5 g; 0.12 mol) and cooled to 0° C. under nitrogen. The N-trityl-t-butyldimethylsilyloxy serine methyl ester (57 g; 0.12 mol) is added portionwise over 5 minutes as a solid. The reaction mixture is allowed to warm and stir for 30 minutes at 25° C. The mixture is quenched by slow addition of H2O (4.5 ml) at 0° C. followed by 15% NaOH (4.5 ml) and H2O (13.5 ml) at 25° C. After stirring for 3 hours, the mixture is filtered and the solid washed with THF. The combined filtrates are concentrated to which is added ether and petroleum ether to precipitate N-trityl-1,3-dihydroxy-2-propanamine which is used directly in Step D.

reactant | lithium aluminum hydride | 0.12 mol, 4.5 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | N-trityl-t-butyldimethylsilyloxy serine methyl ester | 0.12 mol, 57 g | COC([C@@H](N(C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)O[Si](C)(C)C(C)(C)C)CO)=O | C29H37NO4Si
solvent | ethyl ether | 300 ml | C(C)OCC | C4H10O
product | N-trityl-1,3-dihydroxy-2-propanamine | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC(CO)CO | C22H23NO2
